US04885283
0.22 g (0.64 mmol) of 2(RS)-[[(RS)-(ethoxy)[(2,5-dioxo-1-imidazolidinyl)methyl]phosphinyl]methyl]-4-methylvaleric acid and 0.116 g (0.81 mmol) of L-leucine methylamide were taken up in 5 ml of dichloromethane and 2.5 ml of tetrahydrofuran. The solution was treated at -8° C. with 0.3 g (1.2 mmol) of N-ethoxycarbonyl-2-ethoxy-1,2-dihydroxyquinoline. The mixture was stirred at room temperature for 24 hours and was then left to stand at 0° C. for 48 hours. The solvent was removed by evaporation. The residue was taken up in 50 ml of chloroform. The solution was washed in sequence with 5% citric acid solution, 5% sodium hydrogen carbonate solution and sodium chloride solution, dried over anhydrous sodium sulfate and evaporated to give a gum. This gum was chromatographed on silica gel using chloroform/methanol (19:1) for the elution to give 0.08 g of [(2,5-dioxo-1-imidazolidinyl)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester as a gum.

reactant | 2(RS)-[[(RS)-(ethoxy)[(2,5-dioxo-1-imidazolidinyl)methyl]phosphinyl]methyl]-4-methylvaleric acid | 0.64 mmol, 0.22 g | C(C)OP(=O)(CN1C(NCC1=O)=O)CC(C(=O)O)CC(C)C | C13H23N2O6P
reactant | L-leucine methylamide | 0.81 mmol, 0.116 g | CNC([C@@H](N)CC(C)C)=O | C7H16N2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | [(2,5-dioxo-1-imidazolidinyl)methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.08 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CN1C(NCC1=O)=O | C20H37N4O6P
